US04061647
4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
4.4 g of 4-(2,4-dichlor-5-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were introduced, while stirring, into a solution of 10 g of gaseous ammonia in 70 ml of methanol. After having allowed the whole to stand overnight at room temperature, the solution was concentrated to about 30 ml of its volume under reduced pressure and the 4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol was precipitated with 100 ml of water. M.p. 186°-189° C (decomposition ).

reactant | 4-(2,4-dichlor-5-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 4.4 g | Br.ClC1=C(C=C(C(=C1)Cl)S(=O)(=O)Cl)C1(N(C(SC1)=NC)C)O
reactant | ammonia | 10 g | N | H3N
solvent | methanol | 70 ml | CO | CH4O
product | 4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NC)C)O | C11H13Cl2N3O3S2
